US07163936B2
To a solution of 6-methylnicotinic acid methyl ester (10 g, 66 mmol) in ethyl acetate (70 ml) was added benzyl bromide (9.5 ml, 80 mmol) and the mixture was stirred at 60–70° C. for 3 hours. The mixture was cooled to room temperature and was filtered. The residue was washed twice with ethyl acetate/hexane and dried in vacuo to give 1-benzyl-5-(methoxycarbonyl)-2-methylpyridinium bromide (1.59 g, 7%).

reactant | 6-methylnicotinic acid methyl ester | 66 mmol, 10 g | COC(C1=CN=C(C=C1)C)=O | C8H9NO2
reactant | benzyl bromide | 80 mmol, 9.5 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | ethyl acetate | 70 ml | C(C)(=O)OCC | C4H8O2
product | 1-benzyl-5-(methoxycarbonyl)-2-methylpyridinium bromide | 1.59 g, 7% | [Br-].C(C1=CC=CC=C1)[N+]1=C(C=CC(=C1)C(=O)OC)C | InChI=1S/C15H16NO2.BrH/c1-12-8-9-14(15(17)18-2)11-16(12)10-13-6-4-3-5-7-13;/h3-9,11H,10H2,1-2H3;1H/q+1;/p-1
